US07981903B2
3-fluoro-4-methylphenol (3.66 g, 29.0 mmol) was dissolved in dichloroethane (32 mL) and tetrabutylammonium bromide (0.935 g, 2.90 mmol) was added. Nitric acid 70% (3.7 mL, 58 mmol) was diluted with water (33 mL) to make a 7% nitric acid solution. This solution was added to the reaction mixture which was then stirred at room temperature for 4 h at which time the reaction was judged complete by TLC. The reaction was poured into water and extracted with dichloromethane (3×). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting residue was absorbed onto silica gel and purified by chromatography on SiO2 to give 5-fluoro-4-methyl-2-nitrophenol as a yellow solid (2.83 g, 57%). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.10 (s, 1 H), 7.89 (d, J=8.1 Hz, 1 H), 6.85 (d, J=11.0 Hz, 1 H), 2.13 (s, 3 H).

reactant | 3-fluoro-4-methylphenol | 29.0 mmol, 3.66 g | FC=1C=C(C=CC1C)O | C7H7FO
reactant | Nitric acid | 58 mmol, 3.7 mL | [N+](=O)(O)[O-] | HNO3
solvent | dichloroethane | 32 mL | ClC(C)Cl | C2H4Cl2
catalyst | tetrabutylammonium bromide | 2.90 mmol, 0.935 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 33 mL | O | H2O
product | 5-fluoro-4-methyl-2-nitrophenol | 2.83 g, 57% | FC=1C(=CC(=C(C1)O)[N+](=O)[O-])C | C7H6FNO3
